US04855310
By following the same procedure as Reference Example 6 using 6.9 of 2,5-dimercapto-1,3,4-thiadiazole and 5.8 g of ethyl 4-chlorovalerate as the starting materials, 1.5 g of ethyl 4-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]valerate was obtained as an oily product.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | SC=1SC(=NN1)S | C2H2N2S3
reactant | ethyl 4-chlorovalerate | 5.8 g | ClC(CCC(=O)OCC)C | C7H13ClO2
product | ethyl 4-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]valerate | 1.5 g | SC1=NN=C(S1)SC(CCC(=O)OCC)C | C9H14N2O2S3
